US07105272B2
(1) 4-(t-butoxycarbonyloxy) benzaldehyde (BOCBA)
After dissolving 24.4 g (0.2 mole) of 4-hydroxy benzaldehyde in 200 ml of THF, 52.4 g (0.24 mole) of di-t-butyldicarbonate and 15 mg (0.2 millimole) of N,N-dimethylamino pyridine were added, and the mixture was stirred overnight at room temperature. Then, after adding Na2CO3 aqueous solution to neutralize, the mixture was separated and the upper layer was washed with water until pH thereof reached 7. After adding MgSO4 to dry, the mixture was filtered, concentrated, and recrystalized from methanol to obtain BOCBA. Amount obtained was 35 g (yield was 80%).

reactant | 4-hydroxy benzaldehyde | 0.2 mole, 24.4 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | di-t-butyldicarbonate | 0.24 mole, 52.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 4-(t-butoxycarbonyloxy) benzaldehyde | yield was 80% | C(C)(C)(C)OC(=O)OC1=CC=C(C=O)C=C1 | C12H14O4
